US07851473B2
N-(3,4-Dimethylisoxazol-5-yl)-4-[3-(2-thienyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate (251 mg, 0.872 mmol), 1-[3-(2-thienyl)-1,2,4-thiadiazol-5-yl]piperazine (200 mg, 0.793 mmol) and diisopropylethylamine (0.152 ml, 0.872 mmol) in dimethylsulfoxide (2.5 ml) was stirred at 70° C. for 3.5 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 106 mg (31.1%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate | 0.872 mmol, 251 mg | CC1=NOC(=C1C)NC(OCC(Cl)(Cl)Cl)=O | C8H9Cl3N2O3
reactant | 1-[3-(2-thienyl)-1,2,4-thiadiazol-5-yl]piperazine | 0.793 mmol, 200 mg | S1C(=CC=C1)C1=NSC(=N1)N1CCNCC1 | C10H12N4S2
reactant | diisopropylethylamine | 0.872 mmol, 0.152 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-(3,4-Dimethylisoxazol-5-yl)-4-[3-(2-thienyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxamide | 106 mg, 31.1% | CC1=NOC(=C1C)NC(=O)N1CCN(CC1)C1=NC(=NS1)C=1SC=CC1 | C16H18N6O2S2
